US07109219B2
Thiomorpholine 1,1-dioxide monohydrochloride
tert-Butyl 1,1-dioxothiomorpholine-4-carboxylate (2.03 g, 8.63 mmol) was dissolved in a mixture of hydrochloric acid-methanol 10 (20 ml) and tetrahydrofuran (20 ml); hydrochloric acid (4.0 ml) was added thereto during stirring at room temperature; and the reaction mixture was stirred at room temperature for 3 hours. The reaction mixture was concentrated; methanol (20 ml), tetrahydrofuran (20 ml) and hydrochloric acid (4.0 ml) were added to the obtained crystals. Furthermore, water (10 ml) was added to this solution to perfectly dissolve the crystals; and this solution was stirred at room temperature for 1 hour. The solvent was concentrated under reduced pressure; and the obtained crystals were suspended in methanol, filtered off, washed with methanol, and dried under aeration to yield the title compound as colorless crystals (1.49 g, 8.65 mmol, quantitative).

reactant | tert-Butyl 1,1-dioxothiomorpholine-4-carboxylate | 8.63 mmol, 2.03 g | O=S1(CCN(CC1)C(=O)OC(C)(C)C)=O | C9H17NO4S
reactant | hydrochloric acid | 4.0 ml | Cl | ClH
solvent | hydrochloric acid methanol | 20 ml | Cl.CO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | Thiomorpholine 1,1-dioxide monohydrochloride | 8.65 mmol, 1.49 g | Cl.N1CCS(CC1)(=O)=O | InChI=1S/C4H9NO2S.ClH/c6-8(7)3-1-5-2-4-8;/h5H,1-4H2;1H
